US04670593
N-Isopropyl chlorofluoroacetamide
A solution of 11.8 grams (0.2 mole) isopropyl amine in 20 milliliters ethyl alcohol were added dropwise at 10°-15° C. with stirring to a solution of ethyl fluorochloroacetate and 5 drops of ethylene glycol in 80 milliliters ethyl alcohol. The solution was stirred at 10°-20° C. for 2 hours and was then stored at -15° C. for 3 days. At this time, the solution was evaporated to leave a liquid, 25.2 grams, nD30 1.4395, identified as the title compound by infrared and nuclear magnetic resonance spectroscopy.

reactant | isopropyl amine | 0.2 mole, 11.8 grams | C(C)(C)N | C3H9N
reactant | ethyl fluorochloroacetate | FC(C(=O)OCC)Cl | C4H6ClFO2
solvent | ethyl alcohol | 20 milliliters | C(C)O | C2H6O
catalyst | ethylene glycol | 5 drops | C(CO)O | C2H6O2
solvent | ethyl alcohol | 80 milliliters | C(C)O | C2H6O
product | N-Isopropyl chlorofluoroacetamide | C(C)(C)NC(C(F)Cl)=O | C5H9ClFNO
